US08022192B2
To a solution of 4-benzyl-1-ethoxycarbonyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole (0.15 g) in methanol (3 mL) was added sodium bicarbonate (0.032 g) under stirring at room temperature. The mixture was stirred at room temperature for 12 hours. In addition, to the mixture was added potassium carbonate (0.053 g), and the mixture was stirred for 2 hours. The reaction mixture was poured into water to precipitate the solid. The solids were collected by filtration. The obtained solids were washed with water and dried under reduced pressure to give 4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.098 g).

reactant | 4-benzyl-1-ethoxycarbonyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole | 0.15 g | C(C1=CC=CC=C1)C=1C(=NN(C1C(C)C)C(=O)OCC)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H62N2O12
reactant | sodium bicarbonate | 0.032 g | C([O-])(O)=O.[Na+]
reactant | potassium carbonate | 0.053 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.098 g | C(C1=CC=CC=C1)C=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C39H58N2O10
